US04373046
A mixture of 1 mol of 1,2,3,5-tetrabromoacenaphthlene (C12H6Br4) in 500 g of benzene and 2 mols of potassium bromide and 0.2 mols of potassium bromate in 600 g of water was placed in a three-necked flask and stirred vigorously in a dark place. Two mols of concentrated sulfuric acid diluted with an equal volume of water was added dropwise to the mixture under agitation at about 10° C. Following a 3-hr reaction, the benzene layer was washed sequentially with water, aqueous caustic soda (2%) and water, and dried with silica gel. A solution of the dried benzene was transferred to a three-necked flask where it was dehydrobromated with a solution of about 2 mols of potassium hydroxide in hot ethanol that was added dropwise through the dropping funnel. After the reaction, the benzene layer was washed with water and dried. After distilling benzene off under vacuum, the residue was washed thoroughly with hot acetone and dried to provide a bromoacenaphthylene condensate. It was estimated by elemental analysis that the condensate had a rational formula of (C12H3.7 Br2.9)1. GPC showed that it had a degree of condensation l in the range of from 2 to 5.

reactant | potassium bromide | 2 mols | [Br-].[K+]
reactant | potassium bromate | 0.2 mols | Br(=O)(=O)[O-].[K+]
reactant | sulfuric acid | Two mols | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | about 2 mols | [OH-].[K+]
reactant | benzene | 500 g | C1=CC=CC=C1 | C6H6
solvent | water | 600 g | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | bromoacenaphthylene | BrC1=CC2=CC=CC3=CC=CC1=C23 | C12H7Br
